US05202349
a) 3-(Naphth-2-yl-ethynyl)-benzaldehyde
To a solution of 15.3 g of naphth-2-yl-acetylene and 16.65 g of -bromobenzaldehyde in 120 ml of absolute triethylamine were added at a bath temperature of 50° C. while stirring in an atmosphere of dry nitrogen 1.05 g of bis-(triphenylphosphine)-palladium(II) chloride and 0.07 g of copper(I) iodide. Then the mixture was stirred at a bath temperature of 70°-80° C. (TLC: petroleum ether/ether-5:1). When the reaction was finished the mixture was filtered, the residue washed with ethyl acetate and then the filtrates were evaporated in a vacuum. By column chromatography with petroleum ether/ether (4:1) the residue is purified to yield 15.1 g (65.5% of the theoretical yield) of the title compound in the form of crystals melting at 90°-92° C.

reactant | naphth-2-yl-acetylene | 15.3 g | C1=C(C=CC2=CC=CC=C12)C#C | C12H8
reactant | bromobenzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
solvent | triethylamine | 120 ml | C(C)N(CC)CC | C6H15N
catalyst | bis-(triphenylphosphine)-palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.07 g | [Cu]I
product | 3-(Naphth-2-yl-ethynyl)-benzaldehyde | C1=C(C=CC2=CC=CC=C12)C#CC=1C=C(C=O)C=CC1 | C19H12O
